US04436903
A suspension is prepared from 142 g (3.75 mmols) of sodium borohydride and 2.4 liters of abs. toluene and then 2.2 liters of glacial acetic acid are added over 4 hours at 20° C. The hydrogen formed during the exothermic reaction is drawn off. To the triacetoxy borohydride so formed are then added, at 20° C., 400 g (0.683 mmol) of 7β-phenoxyacetylamino-3-morpholino-3-cephem-4-carboxylic acid benzhydryl ester in 1.2 liters of glacial acetic acid and 600 ml of abs. toluene. The reaction mixture is warmed to 40° C. and then stirred for 24 hours at this temperature. The solvent is then removed completely by vacuum distillation and the oily residue is partitioned between 1.4 liters of water and 1.4 liters of toluene. The phases are separated and the aqueous phase is extracted with 600 ml of toluene. The combined organic phases are neutralised with saturated sodium bicarbonate solution and washed with two 50 ml portions of water. The organic phase is concentrated under reduced pressure and the oily residue is dissolved in 1.5 liters of ethanol at 55° C. Inoculation of the slowly cooling solution results in the crystallisation of 7β-phenoxyacetylamino-3-cephem-4-carboxylic acid benzhydryl ester.

reactant | triacetoxy borohydride | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O
reactant | 7β-phenoxyacetylamino-3-morpholino-3-cephem-4-carboxylic acid benzhydryl ester | 0.683 mmol, 400 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C([C@H]2NC(COC2=CC=CC=C2)=O)=O)N2CCOCC2 | C32H31N3O6S
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | acetic acid | 1.2 liters | C(C)(=O)O | C2H4O2
product | 7β-phenoxyacetylamino-3-cephem-4-carboxylic acid benzhydryl ester | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C1=CCS[C@H]2N1C([C@H]2NC(COC2=CC=CC=C2)=O)=O | C28H24N2O5S
